US08912188B2
To a solution of methyl 2-(1-benzofuran-5-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (105 mg, crude) in methanol (30 mL) was added sodium hydroxide (59.7 mg, 1.49 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated under vacuum, dissolved in water (30 mL) and adjusted to pH 5 with HCl (3N), extracted with ethyl acetate (3×80 mL) and the organic layers combined, dried over anhydrous magnesium sulfate and concentrated under vacuum to give the residue, which was purified by Prep-HPLC under the following conditions [(Agilent 1200 prep HPLC): Column, SunFire Prep C18, 19*50 mm 5 um; mobile phase, water with 0.05% NH3H2O and CH3CN (10% CH3CN up to 45% in 10 min); Detector, UV 220 nm] to afford 2-(1-benzofuran-5-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylic acid as a yellow solid (26.3 mg).

reactant | methyl 2-(1-benzofuran-5-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 105 mg | O1C=CC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N(C(C)C)C)C(=O)OC | C22H21N3O3
reactant | sodium hydroxide | 1.49 mmol, 59.7 mg | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 2-(1-benzofuran-5-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylic acid | 26.3 mg | O1C=CC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N(C(C)C)C)C(=O)O | C21H19N3O3
